US06822100B2
4-(2-Dimethylamino-vinyl)-3-nitro-benzonitrile (28.5 g, 131 mmol) was dissolved in MeOH (850 mL) and hydrogenated over 10% Pd/C (6.0 g) at 60 psi for 1.5 h at room temperature. The reaction was filtered over celite and evaporated in vacuo. The residue was partitioned between 5% aqueous HCl solution and Et2O (2×200 mL) and the combined organic extract was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give 6-cyano-1H-indole (13.5 g, 72%) as a light brown solid. 1H NMR (400 MHz, DMSO-d6) 11.7 (1H, br s), 7.89 (1H, s), 7.72 (1H, d, J=8.2 Hz), 7.65 (1H, m), 7.32 (1H, m), 6.59 (1H, m); MS m/e 141 (M−H)−. Anal calcd. for C9H6N2.0.10 H2O : C, 75.09; H, 4.34; N, 19.46. Found: C, 74.92; H, 4.29; N, 19.34.

reactant | 4-(2-Dimethylamino-vinyl)-3-nitro-benzonitrile | 131 mmol, 28.5 g | CN(C=CC1=C(C=C(C#N)C=C1)[N+](=O)[O-])C | C11H11N3O2
solvent | MeOH | 850 mL | CO | CH4O
catalyst | Pd/C | 6.0 g | [Pd] | Pd
product | 6-cyano-1H-indole | 13.5 g, 72% | C(#N)C1=CC=C2C=CNC2=C1 | C9H6N2
